US05696231
Preparation of N-Boc-(D)-methioninyl sarcosine benzyl ester.
N-Boc-(D)-methionine (17.1 g, 68.58 mmole) and sarcosine benzyl ester tosylate salt (24.08 g, 68.60 mmole) were suspended in 110 mL of acetonitrile and 25 mL of dimethylformamide at 0° C., then benzotriazol-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate (30.34 g, 68.58 mmole) and N-methylmorpholine (20.83 g, 205.83 mmole) were added. The ice bath was removed after 30 minutes and the reaction was stirred for 18 hours at room temperature. The reaction mixture was reduced in volume under vacuum at 25° C. to give an oil. The oil was dissolved in ethyl acetate (250 mL), then successively washed with 1N hydrochloric acid (1×50 mL), saturated sodium bicarbonate (1×50 mL) and brine (1×50 mL). The organic layer was dried with anhydrous magnesium sulfate and evaporated under vacuum to give crude product. The crude product was purified by column chromatography on silica gel, eluting with 60:40 hexane:ethyl acetate to yield 26.07 g (92.6%) of the title compound as an oil. Thin layer chromatography analysis of the title compound showed a single spot with Rf=0.55 (silica, 3:2 ethyl acetate/hexane).

reactant | N-Boc-(D)-methionine | 68.58 mmole, 17.1 g | C(=O)(OC(C)(C)C)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | sarcosine benzyl ester tosylate salt | 68.60 mmole, 24.08 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC(CNC)=O
reactant | benzotriazol-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate | 68.58 mmole, 30.34 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 205.83 mmole, 20.83 g | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N-Boc-(D)-methioninyl sarcosine benzyl ester | 26.07 g, 92.6% | C(C1=CC=CC=C1)OC(CN(C)C([C@H](NC(=O)OC(C)(C)C)CCSC)=O)=O | C20H30N2O5S
